US05256666
30 g of 1-chloro-2-methyl-3-prop-2-enylbenzene are dissolved in 150 ml of N-methylpyrrolidone, and 25 g of copper(I) cyanide are added. The reaction mixture is heated at 190° C. for 30 hours while stirring. After the mixture has been cooled to 20° C., 125 ml of ethylenediamine and 300 ml of water are added. Stirring is then carried out for 1 hour at 50° C. and for 14 hours at 20° C. Working up is effected by extracting with diethyl ether, washing the organic phase and drying over sodium sulfate, removing the drying agent and distilling off the organic solvent. 24.5 g of crude product are obtained. After chromatography (silica gel/toluene), 14.4 g of pure 1-cyano-2-mehtyl-3-prop-2-enylbenzene are isolated.

reactant | 1-chloro-2-methyl-3-prop-2-enylbenzene | 30 g | ClC1=C(C(=CC=C1)CC=C)C | C10H11Cl
reactant | copper(I) cyanide | 25 g | [Cu]C#N
reactant | ethylenediamine | 125 ml | C(CN)N | C2H8N2
reactant | water | 300 ml | O | H2O
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 1-cyano-2-mehtyl-3-prop-2-enylbenzene | 14.4 g | C(#N)C1=C(C(=CC=C1)CC=C)C | C11H11N
